* source LM2903B
.EXTERNAL INPUT GND
.EXTERNAL INPUT OUT
.EXTERNAL INPUT IN+
.EXTERNAL INPUT IN-
.EXTERNAL INPUT Vcc
V_VINN2         VCC 0 12
V_VINN         IN- 0 5
R_R2         0 GND  1m TC=0,0 
V_V1         IN+ 0  
+SIN 5 100m 100k 0 0 0
R_R3         VCC OUT  10k TC=0,0 
X_U1         IN+ IN- VCC GND OUT LM2903B
