*$
**************** Power Discrete MOSFET Electrical Circuit Model *****************
** Product Name: FQD11P06
** -60V P-Channel QFET MOSFET and D-PAK
** Model Type: BSIM3V3
**-------------------------------------------------------------------------------
.SUBCKT FQD11P06 2 1 3
*Nom Temp=25 deg C
Dbody 5 7 DbodyMOD 
Dbreak 7 11 DbreakMOD 
Lgate 1 9 1.183e-9
Ldrain 2 5 1.04e-9
Lsource 3 7 1.658e-9
RLgate 1 9 11.83
RLdrain 2 5 10.04
RLsource 3 7 16.58
Rgate 9 6 9.12
It 7 17 1
Ebreak 5 11 17 7 -66
Rbreak 17 7 RbreakMOD 1 
.MODEL RbreakMOD RES (TC1=1.06e-3 TC2=-1.5e-6) 
.MODEL DbodyMOD D (IS=3.02e-13     N=1          RS=2.91e-2    TRS1=5.05e-6    TRS2=1e-7 
+ CJO=7.24e-10   M=0.42   VJ=0.54  TT=8.84e-8   XTI=6.3       EG=1.18)
.MODEL DbreakMOD D (RS=3.0e-2 TRS1=1e-3 TRS2=1e-6)
Rdrain 5 16 RdrainMOD 0.135
.MODEL RdrainMOD RES (TC1=6.33e-3 TC2=1.09e-6)
M_BSIM3 16 6 7 7 Bsim3 W=1.45 L=2.0e-6 NRS=1 NRD=0
.MODEL Bsim3 PMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 PARAMCHK=1 NQSMOD=0
+ TOX=1080e-10  XJ=1.4e-6       NCH=1.0e17 
+ U0=230        VSAT=1.0e5      DROUT=1.0
+ DELTA=0.1     PSCBE2=0        RSH=1.098e-3
+ VTH0=-3.60    VOFF=-0.16      NFACTOR=1
+ LINT=5.15e-7  DLC=5.15e-7     CGSO=1.02e-15
+ CGSL=0        CGDO=1.33e-14   CGDL=4.62e-10 
+ CJ=0          CF=0            CKAPPA=0.12
+ KT1=-1.07     KT2=0           UA1=-5.04e-9
+ NJ=10)
.ENDS
*$
******************* Power Discrete MOSFET Thermal Model *************************
** Package: D-PAK
**-------------------------------------------------------------------------------
.SUBCKT FQD11P06_THERMAL TH TL
CTHERM1 TH 6 1.15e-05
CTHERM2 6 5  2.14e-04
CTHERM3 5 4  5.82e-04
CTHERM4 4 3  3.46e-03
CTHERM5 3 2  3.33e-02
CTHERM6 2 TL 4.02e-02 
RTHERM1 TH 6 1.390E-03
RTHERM2 6 5  1.100E-02
RTHERM3 5 4  9.000E-02
RTHERM4 4 3  3.350E-01
RTHERM5 3 2  7.330E-01
RTHERM6 2 TL 2.110E+00
.ENDS FQD11P06_THERMAL
**-------------------------------------------------------------------------------
** Creation: Dec.-14-2021   Rev: 1.0
** onsemi
*$

